US08975254B2
c) (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-methylthiazol-4-yl)-1H-pyrazole-3-carboxamide
3-(2-Methylthiazol-4-yl)-1H-pyrazole-5-carboxylic acid (0.586 mmol) was coupled with (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile using the method of Example 34(d). Crude product was purified by CombiFlash (silica column, eluent: 50-100% EtOAc in heptane) to obtain 24 mg (18%) of the title compound 1H-NMR (400 MHz; CDCl3): δ 1.24 (d, 3H), 2.77 (s, 3H), 4.28 (dd, 1H), 4.44 (dd, 1H), 4.55-4.67 (m, 1H), 6.59 (d, 1H), 7.06 (s, 1H), 7.38 (s, 1H), 7.49 (d, 1H), 7.60 (d, 1H), 7.74 (dd, 1H), 7.82 (d, 1H), 8.06 (d, 1H), 11.75 (bs, 1H).

reactant | 3-(2-Methylthiazol-4-yl)-1H-pyrazole-5-carboxylic acid | 0.586 mmol | CC=1SC=C(N1)C1=NNC(=C1)C(=O)O | C8H7N3O2S
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-methylthiazol-4-yl)-1H-pyrazole-3-carboxamide | 24 mg, 18% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NNC(=C1)C=1N=C(SC1)C | C21H18ClN7OS
